US08648066B2
Synthesized according to the method of reagent preparation 1 by N-iodosuccinimide iodination of methyl 2-amino-4-methoxybenzoate to give methyl 5-iodo-2-amino-4-methoxybenzoate then proceeding with step 1. 1H NMR (400 MHz, CDCl3): 8.97, (s, 1H), 8.75, 7.31 (s, 1H), 4.08 (s, 3H). GC-MS for C9H6ClIN2O: 319 (M+).

reactant | N-iodosuccinimide | IN1C(CCC1=O)=O | C4H4INO2
reactant | methyl 2-amino-4-methoxybenzoate | NC1=C(C(=O)OC)C=CC(=C1)OC | C9H11NO3
product | methyl 5-iodo-2-amino-4-methoxybenzoate | IC=1C(=CC(=C(C(=O)OC)C1)N)OC | C9H10INO3
